US03941826
4-Bromo-2,5-di-sec-butylphenyl methyl sulfide was prepared using the procedure of Example 1C except that 4-bromo-2,5-di-sec-butylbenzenethiol was substituted for the 4-bromo-2,5-diisopropylbenzenethiol. The resulting product had a boiling point of 126°C at 0.3 mm Hg.

reactant | 4-bromo-2,5-di-sec-butylbenzenethiol | BrC1=CC(=C(C=C1C(C)CC)S)C(C)CC | C14H21BrS
reactant | 4-bromo-2,5-diisopropylbenzenethiol | BrC1=CC(=C(C=C1C(C)C)S)C(C)C | C12H17BrS
product | 4-Bromo-2,5-di-sec-butylphenyl methyl sulfide | CSC1=C(C=C(C(=C1)C(C)CC)Br)C(C)CC | C15H23BrS
